US07696374B2
2,2,2-Trifluoroethyl 1,1′-biphenyl-4-ylmethylcarbamate
0.119 ml (1.64 mmol) of 2,2,2-trifluoroethanol and 0.306 ml (1.49 mmol) of N,N-diisopropylethylamine are added, dropwise and at ambient temperature, to a solution of 0.3 g (1.49 mmol) of para-nitrophenyl chloroformate in 15 ml of methylene chloride. The mixture is stirred at ambient temperature for 2 h, and then 0.275 g (1.5 mmol) of 4-phenylbenzylamine is added. N,N-Diisopropylethylamine is subsequently added, dropwise and at ambient temperature, until the precipitate which has formed disappears. The transparent solution thus obtained is stirred at ambient temperature for 1 h. The reaction medium is diluted with a further 10 ml of methylene chloride and washing is carried out with a saturated aqueous ammonium chloride solution and with a saturated aqueous sodium chloride solution. The phases are separated and the organic phase is dried over sodium sulfate. The product is filtered, the filtrate is concentrated under reduced pressure and the residue is purified by silica gel chromatography with methylene chloride.

reactant | 2,2,2-trifluoroethanol | 1.64 mmol, 0.119 ml | FC(CO)(F)F | C2H3F3O
reactant | N,N-diisopropylethylamine | 1.49 mmol, 0.306 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | para-nitrophenyl chloroformate | 1.49 mmol, 0.3 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | 4-phenylbenzylamine | 1.5 mmol, 0.275 g | C1(=CC=CC=C1)C1=CC=C(CN)C=C1 | C13H13N
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 2,2,2-Trifluoroethyl 1,1′-biphenyl-4-ylmethylcarbamate | C1(=CC=C(C=C1)CNC(OCC(F)(F)F)=O)C1=CC=CC=C1 | C16H14F3NO2
